US20010044535A1
A. N-(2,4,6 trimethylphenyl)sulfonyl-L-asparagine
L-Asparagine (20.0 g, 0.15M) was suspended in a mixture of tetrahydrofuran (l30 mL) and water (250 mL). Triethylamine (49 g, 0.48M) was added followed by mesitylenesulfonyl chloride (49.7 g, 0.227M), The reaction mixture became slightly exothermic and the solids dissolved over a period of 0.5 h. to yield a yellow solution. The reaction mixture was stirred for 3 h at room temperature, then washed with ether, and methylene chloride. The aqueous layer was separated, and acidified to ca. pH=1.5 with conc. HCl, during which time a thick precipitate formed. After 0.5 h. the product was filtered,washed with water and dried to yield a white solid (34 g, 72%). m.p.=193.5 - 1950C 1H NMR (DMSO) δ 2.24 (s, 3H), 2.28 (dd, 1H), 2.45 (dd, 1H), 2.55 (s, 6H, 3.98 (m, 1H), 6.88 (br s, 1H), 6.99 (s, 2H), 7.32 (br s, 1H), 7.82 (d, 2H), 12.58 (br s, 1H). Mass spectrum ESI m/z 315.2, (M+H base peak).

reactant | L-Asparagine | 0.15M, 20.0 g | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | Triethylamine | 0.48M, 49 g | C(C)N(CC)CC | C6H15N
reactant | mesitylenesulfonyl chloride | 0.227M, 49.7 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 250 mL | O | H2O
product | N-(2,4,6 trimethylphenyl)sulfonyl-L-asparagine | 34 g, 72% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N[C@@H](CC(N)=O)C(=O)O | C13H18N2O5S
